US06432950B1
With the procedure of Example 1, the reaction of 3,4-methylenedioxyphenethylamine with 4-chloro-2-(pyridin-4-yl)-6-ethyl-thieno-[2,3-d]-pyrimidine yields 2-pyridin-4-yl)-4-(3,4-methylenedioxyphenethylamino)-6-ethyl-thieno-[2,3-d]-pyrimidine.

reactant | 3,4-methylenedioxyphenethylamine | C1OC=2C=C(CCN)C=CC2O1 | C9H11NO2
reactant | 4-chloro-2-(pyridin-4-yl)-6-ethyl-thieno-[2,3-d]-pyrimidine | ClC=1C2=C(N=C(N1)C1=CC=NC=C1)SC(=C2)CC | C13H10ClN3S
product | 4-(3,4-methylenedioxyphenethylamino)-6-ethyl-thieno-[2,3-d]-pyrimidine | C1OC=2C=C(CCNC=3C4=C(N=CN3)SC(=C4)CC)C=CC2O1 | C17H17N3O2S
